US09233968B1
To a mixture of 3-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline (93.6 mg, 0.4 mmol, 1 eq) and m-toluic acid (55 mg, 1 eq) in anhydrous dichloroethane (4 mL) under nitrogen atmosphere was added 4-(dimethylamino)pyridine (10 mg, 0.2 eq) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (92.2 mg, 1.2 eq). After the reaction was stirred at 60° C. for four hours and was cooled to room temperature, white precipitates were observed. It was filtered directly to give a white solid. This solid was further subject to a gradient column chromatography (MeOH-DCM 1:50 to 1:20) to yield N-[3-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-3-methylbenzamide as a white solid in amount of 85 mg.

reactant | 3-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline | 0.4 mmol, 93.6 mg, 1 eq | N=1C=CN2N=C(C=CC21)C#CC=2C=C(N)C=CC2 | C14H10N4
reactant | m-toluic acid | 55 mg, 1 eq | C1(=CC(=CC=C1)C(=O)O)C | C8H8O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 92.2 mg, 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 10 mg, 0.2 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-3-methylbenzamide | N=1C=CN2N=C(C=CC21)C#CC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C)=O | C22H16N4O
